US08222424B2
5-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-benzoyl}-2-chloro-benzenesulfonamide
[2-(4-Bromo-phenoxy)-ethoxy]-tert-butyl-dimethyl-silane (7.3 g, 22.12 mmol) is dissolved in tetrahydrofuran (120 mL) and cooled to −78° C. The solution is treated with a solution of n-butyllithium (1.6 M in hexanes, 13.8 mL, 22.12 mmol) and stirred 30 minutes after which a solution of 4-chloro-N-methoxy-N-methyl-3-sulfamoyl-benzamide (2.05 g, 7.37 mmol) in tetrahydrofuran (20 mL) is added. The reaction is allowed to stir for 18 hours while warming to ambient temperature. The reaction is quenched with a saturated solution of ammonium chloride and extracted twice with ether. The organic phase is separated and concentrated in vacuo. The residue is purified by column chromatography (gradient of ethyl acetate in hexanes 10-50%) affording 1.84 g (53% yield) of the title compound. MS (m/z): 470.2 (M+1).

reactant | [2-(4-Bromo-phenoxy)-ethoxy]-tert-butyl-dimethyl-silane | 22.12 mmol, 7.3 g | BrC1=CC=C(OCCO[Si](C)(C)C(C)(C)C)C=C1 | C14H23BrO2Si
reactant | n-butyllithium | 22.12 mmol, 1.6 M, 13.8 mL | C(CCC)[Li]
reactant | 4-chloro-N-methoxy-N-methyl-3-sulfamoyl-benzamide | 7.37 mmol, 2.05 g | ClC1=C(C=C(C(=O)N(C)OC)C=C1)S(N)(=O)=O | C9H11ClN2O4S
solvent | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 5-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-benzoyl}-2-chloro-benzenesulfonamide | 1.84 g, 53% yield | C(C)(C)(C)[Si](OCCOC1=CC=C(C(=O)C=2C=CC(=C(C2)S(=O)(=O)N)Cl)C=C1)(C)C | C21H28ClNO5SSi
